data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(F)c(NN=CCc2ccccc2)cc1OC.Cl[Zn]Cl", "products": "COc1cc(F)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1OC"}, {"reactants": "COc1cc(F)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1OC", "products": "COc1cc(F)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1OC.[H+]"}, {"reactants": "COc1cc(F)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(F)ccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(F)ccc2OC)C(=N)C=C1", "products": "COc1cc(F)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC"}, {"reactants": "COc1cc(F)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC", "products": "COc1cc(F)c2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(F)c2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(F)c2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(F)c2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(F)c2c(c1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(F)c2c(c1OC)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(F)c2[nH]cc(-c3ccccc3)c2c1OC.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1Cl.C=O", "products": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1Cl"}, {"reactants": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1Cl", "products": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1Cl"}, {"reactants": "C[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1Cl", "products": "C=[N+](O)[C@@H]1C(Cl)[C@H](C)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(Cl)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](C)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1Cl"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1c(Cl)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1c(Cl)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1c(Cl)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(Cl)c1OC", "products": "COc1c(Cl)cccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccccc1C(=O)C1C2CCC1C2", "products": "Cc1ccccc1[C]([O])C1C2CCC1C2"}, {"reactants": "Cc1ccccc1[C]([O])C1C2CCC1C2", "products": "Cc1ccccc1C([O])=CC1C[CH]CC1"}, {"reactants": "Cc1ccccc1C([O])=CC1C[CH]CC1", "products": "Cc1ccccc1C(O)=CC1C=CCC1"}, {"reactants": "Cc1ccccc1C(O)=CC1C=CCC1", "products": "Cc1ccccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(CC)C2CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(CC)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(CC)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(CC)CC1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(CC)CC1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(CC)CC1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(F)cc1C(=O)C1C2CCC1C2", "products": "COc1ccc(F)cc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1ccc(F)cc1[C]([O])C1C2CCC1C2", "products": "COc1ccc(F)cc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1ccc(F)cc1C([O])=CC1C[CH]CC1", "products": "COc1ccc(F)cc1C(O)=CC1C=CCC1"}, {"reactants": "COc1ccc(F)cc1C(O)=CC1C=CCC1", "products": "COc1ccc(F)cc1C(=O)CC1C=CCC1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CC)c([Si](C)(C)C)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)C)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CC)c([Si](C)(C)C)c(OC)c1=C", "products": "CC[Si](C)(C)c1cc2c(c(OC)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2C(Br)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CCC1(Br)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(Br)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CCC1(Br)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(Br)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CCC1(Br)CC(C(=O)OC)C(=O)C2"}]}
